US07329652B2
N-{4-[5-Amino-1-(2-chloro-pyridin-4-yl)-1H-[1,2,4]triazol-3-ylamino]-phenyl}-acetamide.
A microwave reaction vessel was charged with 1.34 g of (2-Chloro-pyridin-4-yl)-hydrazine (7.48 mmol, 1.1 equiv) and 2.00 g of N-cyano-N′-(4-acetamidophenyl)-O-phenylisourea (6.80 mMol, 1 equiv). The solids were dissolved in 40 mL of NMP and 8 mL of DIEA. The sealed vessel was warmed to 220° C. for 6 min via microwave irradiation. Upon cooling, the resulting solution was poured into 200 mL of saturated sodium bicarbonate. The precipitate was collected and washed with 3×100 mL of water. After azeotropic drying (3×50 mL of acetonitrile) the dark yellow solid (2.0 g, 5.80 mMol, 85% yield) was used without further purification. 1H NMR (500 Mhz, DMSO-d6) δ 9.68 (1 H, s), 9.00 (1 H, s), 8.40 (1 H, d), 7.67 (2 H, m), 7.50 (2 H, d), 7.40 (2 H, d), 6.95 (2 H, s), 2.0 (3 H, s) ppm. LCMS: 2.16 minutes/343.95 (M+H).

reactant | (2-Chloro-pyridin-4-yl)-hydrazine | 7.48 mmol, 1.34 g, 1.1 equiv | ClC1=NC=CC(=C1)NN | C5H6ClN3
reactant | N-cyano-N′-(4-acetamidophenyl)-O-phenylisourea | 6.80 mMol, 2.00 g, 1 equiv | C(#N)NC(OC1=CC=CC=C1)=NC1=CC=C(C=C1)NC(C)=O | C16H14N4O2
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | NMP | 40 mL | CN1CCCC1=O | C5H9NO
solvent | DIEA | 8 mL | CCN(C(C)C)C(C)C | C8H19N
product | N-{4-[5-Amino-1-(2-chloro-pyridin-4-yl)-1H-[1,2,4]triazol-3-ylamino]-phenyl}-acetamide | 5.80 mMol, 2.0 g, 85% yield | NC1=NC(=NN1C1=CC(=NC=C1)Cl)NC1=CC=C(C=C1)NC(C)=O | C15H14ClN7O
